US04259509
(A) 2-[4-(2-Furoyl)-phenoxy]-2-methyl-propionic acid
2-Furyl(4-hydroxy-phenyl)ketone (10 g) is dissolved in anhydrous acetone (80 g) and sodium hydroxide (13.2 g) is added thereto; the resulting mixture is stirred for 30 minutes after which anhydrous chloroform (20 g) is added dropwise thereto. On completion of the addition, the mixture is refluxed for 10 hrs. After cooling, the suspension is poured over 2 volumes water and the acetone is evaporated under reduced pressure. The aqueous phase is made acidic, and is then extracted with ethyl ether. The ether phase is neutralized, dried, and the solvent is evaporated off. The resulting solid is recrystallized from benzene, to give 9 g of acid which melts at 127° C. (B)

reactant | 2-Furyl(4-hydroxy-phenyl)ketone | 10 g | O1C(=CC=C1)C(=O)C1=CC=C(C=C1)O | C11H8O3
reactant | sodium hydroxide | 13.2 g | [OH-].[Na+]
reactant | chloroform | 20 g | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | acetone | 80 g | CC(=O)C | C3H6O
product | 2-[4-(2-Furoyl)-phenoxy]-2-methyl-propionic acid | 9 g | O1C(=CC=C1)C(=O)C1=CC=C(OC(C(=O)O)(C)C)C=C1 | C15H14O5
